US05262533
17-Ethyl-1,14-dihydroxy-12-[2'-(4"-benzylamino-3"-phenoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone
To a solution of 17-ethyl-1,14-dihydroxy-12-[2'-(3"-phenoxy-4"-oxocyclohexyl]-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone in dry isopropyl alcohol (3 ml) is added benzyl amine (87 mg). The mixture is stirred at r.t. for 30 minutes, and cooled to -78° C. To this solution is added a solution of sodium cyanoborohydride (6.7 mg) in isopropyl alcohol (0.5 ml). The reaction is stirred at -78° C. and poured into ice water. Extraction with ethyl acetate, followed by purification gives the title compound as a mixture of epimers at C-4".

reactant | 17-ethyl-1,14-dihydroxy-12-[2'-(3"-phenoxy-4"-oxocyclohexyl]-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | C(C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)=O)OC2=CC=CC=C2)C)C)O)=O | C48H69NO12
reactant | benzyl amine | 87 mg | C(C1=CC=CC=C1)N | C7H9N
reactant | sodium cyanoborohydride | 6.7 mg | C(#N)[BH3-].[Na+]
solvent | isopropyl alcohol | 3 ml | C(C)(C)O | C3H8O
solvent | isopropyl alcohol | 0.5 ml | C(C)(C)O | C3H8O
product | 17-Ethyl-1,14-dihydroxy-12-[2'-(4"-benzylamino-3"-phenoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | C(C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)NCC2=CC=CC=C2)OC2=CC=CC=C2)C)C)O)=O | C55H78N2O11
